US08067595B2
n-Butyllithium (1.6 M in n-hexane, 2.8 mL, 2.76×1.6 mmol) was added dropwise to a dry THF (6.6 mL) solution of 2-methoxy-6-(trimethylsilyl)pyridine (MTP, 0.500 g, 2.76 mmol) under an argon atmosphere at between −15° C. and 0° C. (this temperature was kept during the reaction) and stirred for 1 hour, and a dry THF (2 mL) solution of FEO (0.434 g, 2.76×1.2 mmol) was then added dropwise and stirred for 1 hour. Subsequently, n-butyllithium (1.6 M in n-hexane, 2.4 mL, 2.76×1.4 mmol) was added dropwise and stirred for 1 hour, and a dry THF (3 mL) solution of chlorotrimethylsilane (697 μL, 2.76×2.0 mmol) was then added dropwise and stirred for 1 hour. The temperature was raised to room temperature, followed by adding water, brine, and n-hexane (50 mL). The organic layer was separated, dried over Na2SO4, filtered, and then concentrated to dryness. The residue was purified by medium pressure silica gel column chromatography (n-hexane), and desired fractions were combined and concentrated to dryness. TMS-MTPC (0.305 g, 1.08 mmol, 39%) was obtained as a colorless transparent liquid.

reactant | n-Butyllithium | 1.6 mmol, 1.6 M, 2.8 mL | C(CCC)[Li]
reactant | THF | 6.6 mL | C1CCOC1 | C4H8O
reactant | 2-methoxy-6-(trimethylsilyl)pyridine | 2.76 mmol, 0.500 g | COC1=NC(=CC=C1)[Si](C)(C)C | C9H15NOSi
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | n-butyllithium | 1.4 mmol, 1.6 M, 2.4 mL | C(CCC)[Li]
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | chlorotrimethylsilane | 2.0 mmol, 697 μL | Cl[Si](C)(C)C | C3H9ClSi
solvent | brine | [Cl-].[Na+].O
solvent | n-hexane | 50 mL | CCCCCC | C6H14
solvent | water | O | H2O
product | 2-methoxy-4,6-bis(trimethylsilyl)pyridine-3-carbaldehyde | 1.08 mmol, 0.305 g, 39% | COC1=NC(=CC(=C1C=O)[Si](C)(C)C)[Si](C)(C)C | C13H23NO2Si2
